US04511582
To a 2 L Erlenmeyer flask was added 9-phenanthrenecarbaldehyde (Aldrich Chemical Co., Milwaukee, WI, 53201, 20.63 g, 0.1 mol), 2-methyl-2-amino-1,3-propanediol (Aldrich, 9.13 g, 86.8 mmol), p-toluenesulfonic acid.H2O (Eastman Kodak Co., Rochester, NY, 14650, 0.1 g, 0.5 mmol), and PhCH3 (500 mL). The mixture was warmed to reflux for a few minutes and H2O (2-3 mL) was driven off. The resulting golden colored solution was allowed to cool to RT, diluted with absolute EtOH (500 mL) and stirred overnight. NaBH3CN (Aldrich, 95%, 4.40 g, 70 mmol) was added to the reaction. After the NaBH3CN dissolved, an indicator (bromocresol green, Eastman, 5 mg) was added. To the resulting blue solution was added 5 drops of 1M solution of HCl gas in absolute EtOH every 15 minutes. After 3 days the indicator turned green then yellow and voluminous white precipitate was present in the flask. To the flask was then added 1M HCl gas (10 mL) in absolute EtOH. The reaction was diluted to 4 L with absolute ether and stirred for 1 h. The precipitate was then collected by filtration using a medium porosity glass fritted funnel and pressed dry. The filter cake was washed thoroughly with CH2Cl2 (4×500 mL), pressed, sucked dry, and dried overnight (100°). Recrystallization from EtOH/Et2O (3×) gave 11.84 g (36%) of 2-methyl-2-((9-phenanthrylmethyl)amino)-1,3-propanediol hydrochloride mp 144°-146°, (C,H,Cl,N).

reactant | 9-phenanthrenecarbaldehyde | 0.1 mol, 20.63 g | C1=CC=CC=2C3=CC=CC=C3C(=CC12)C=O | C15H10O
reactant | 2-methyl-2-amino-1,3-propanediol | 86.8 mmol, 9.13 g | CC(CO)(CO)N | C4H11NO2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaBH3CN | 70 mmol, 4.40 g | [BH3-]C#N.[Na+]
reactant | bromocresol green | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
reactant | HCl | Cl | ClH
reactant | HCl | 1M, 10 mL | Cl | ClH
solvent | EtOH | 500 mL | CCO | C2H6O
solvent | ether | CCOCC | C4H10O
solvent | H2O | 2-3 mL | O | H2O
solvent | PhCH3 | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 0.5 mmol, 0.1 g | O | H2O
product | 2-methyl-2-((9-phenanthrylmethyl)amino)-1,3-propanediol hydrochloride | 11.84 g, 36% | Cl.CC(CO)(CO)NCC=1C2=CC=CC=C2C=2C=CC=CC2C1 | InChI=1S/C19H21NO2.ClH/c1-19(12-21,13-22)20-11-15-10-14-6-2-3-7-16(14)18-9-5-4-8-17(15)18;/h2-10,20-22H,11-13H2,1H3;1H
